US08026236B2
To a solution of (S)-1-methylpyrrolidine-2-carboxylic acid (16 mg), DIPEA (60 ul) and HBTU (51.7 mg) in dichloromethane (2 ml) was added 1-methyl-6-(4-(2-(ethylamino)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (55 mg). The reaction was left stirring at room temperature for 60 hrs. Reaction mixture was diluted with dichloromethane, washed with sodium bicarbarbonate and water. Organic layer was dried over magnesium sulphate and solvent removed under reduced pressure. The residue was purified by acidic prep HPLC and cationic ion exchange column to yield (S)—N-(2-(4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)ethyl)-N-ethyl-1-methyl-pyrrolidine-2-carboxamide (40 mg).

reactant | (S)-1-methylpyrrolidine-2-carboxylic acid | 16 mg | CN1[C@@H](CCC1)C(=O)O | C6H11NO2
reactant | DIPEA | 60 ul | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 51.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methyl-6-(4-(2-(ethylamino)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 55 mg | CN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)OCCNCC)C(F)(F)F)C#N | C19H18F3N5O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)—N-(2-(4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)ethyl)-N-ethyl-1-methyl-pyrrolidine-2-carboxamide | 40 mg | C(#N)C1=NC(=CC2=C1N=CN2C)C2=CC(=C(OCCN(C(=O)[C@H]1N(CCC1)C)CC)C=C2)C(F)(F)F | C25H27F3N6O2
